US08247403B2
(2) 4-benzyl-7-bromo-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one
To a solution of N-benzyl-5-bromo-2-fluoro-N-(2-hydroxyethyl)benzamide (4.70 g, 13.3 mmol) in N,N-dimethylformamide (100 ml) was added under ice-cooling sodium hydride (60%, 691 mg, 17.3 mmol), and the mixture was stirred under ice-cooling for 1 hr, and poured into ice water. The mixture was extracted with ethyl acetate and the extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the desired product (4.20 g, 96.3%) as an oil.

reactant | N-benzyl-5-bromo-2-fluoro-N-(2-hydroxyethyl)benzamide | 13.3 mmol, 4.70 g | C(C1=CC=CC=C1)N(C(C1=C(C=CC(=C1)Br)F)=O)CCO | C16H15BrFNO2
reactant | sodium hydride | 17.3 mmol, 691 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-benzyl-7-bromo-3,4-dihydro-1,4-benzoxazepine-5 (2H)-one | 4.20 g, 96.3% | C(C1=CC=CC=C1)N1CCOC2=C(C1=O)C=C(C=C2)Br | C16H14BrNO2
